US03963706
b. 2-Phenylamino-N-(3-chloro-4-sulphamoylphenyl)-acetamide
2-Chloro-N-(3-chloro-4-sulphamoylphenyl)-acetamide (28.3 g) and aniline (19 ml) were heated together for 30 min on a water bath (90°) and the product worked up as in Example 1(b) to yield 25 g, m.p. 192°-194°.

reactant | 2-Chloro-N-(3-chloro-4-sulphamoylphenyl)-acetamide | 28.3 g | ClCC(=O)NC1=CC(=C(C=C1)S(N)(=O)=O)Cl | C8H8Cl2N2O3S
reactant | aniline | 19 ml | NC1=CC=CC=C1 | C6H7N
product | 2-Phenylamino-N-(3-chloro-4-sulphamoylphenyl)-acetamide | C1(=CC=CC=C1)NCC(=O)NC1=CC(=C(C=C1)S(N)(=O)=O)Cl | C14H14ClN3O3S
